US08455111B2
[Step 1: Synthesis of 2-(3-Fluorophenyl)-dibenzo[f,h]quinoxaline (abbreviation: Hdbq-3FP)]
First, under a nitrogen atmosphere, 27.5 mL (1.58 mol/L) of a hexane solution of n-butyllithium was dripped into a mixed solution of 6.87 g of 3-bromofluorobenzene and 40 mL of tetrahydrofuran at −78° C. Then, with the temperature maintained at −78° C., the mixture was stirred for 2 hours. To the obtained solution was added 7.54 g of dibenzo[f,h]quinoxaline in five additions at −78° C. The mixture was heated to room temperature,and stirred for 12 hours with the temperature maintained at room temperature. Water was added to this mixture and dichloromethane was used as an extraction solvent, so that an organic layer was extracted. The obtained organic layer was dried with anhydrous magnesium sulfate. The solution obtained by the drying was filtrated. The solvent of this solution was distilled off, and then, by recrystallization with ethanol, the organometallic complex of the present invention, Hdbq-3FP, which was the target substance, was obtained (a light-orange powder, yield: 23%). Synthesis scheme of Step 1 is shown in (a-2) below.

reactant | hexane | 1.58 mol/L, 27.5 mL | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromofluorobenzene | 6.87 g | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | dibenzo[f,h]quinoxaline | 7.54 g | N1=CC=NC2=C3C(=C4C(=C12)C=CC=C4)C=CC=C3 | C16H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(3-Fluorophenyl)-dibenzo[f,h]quinoxaline | yield: 23% | FC=1C=C(C=CC1)C1=NC2=C3C(=C4C(=C2N=C1)C=CC=C4)C=CC=C3 | C22H13FN2
